US05939451
0.30 g (0.00077 mol) of N-[4-(6-methylamino-2-pyrrolidin-1-yl-pyrimidin-4-ylsulfamoyl)-phenyl]-acetamide was boiled at reflux in 30 ml of 1N aqueous sodium hydroxide for 3 hours. The mixture was cooled and extracted with ethyl acetate. Crystals then separated from the aqueous phase and, after suction filtration, were chromatographed over silica gel with ethyl acetate/ethanol 9:1 as the eluent. There was obtained 0.082 g (30%) of 4-amino-N-(6-methylamino-2-pyrrolidin-1-yl-pyrimidin-4-yl)-benzenesulfonamide as beige crystals; m.p. 299-301° C.

reactant | N-[4-(6-methylamino-2-pyrrolidin-1-yl-pyrimidin-4-ylsulfamoyl)-phenyl]-acetamide | 0.00077 mol, 0.30 g | CNC1=CC(=NC(=N1)N1CCCC1)NS(=O)(=O)C1=CC=C(C=C1)NC(C)=O | C17H22N6O3S
solvent | sodium hydroxide | 1N, 30 ml | [OH-].[Na+]
product | 4-amino-N-(6-methylamino-2-pyrrolidin-1-yl-pyrimidin-4-yl)-benzenesulfonamide | 0.082 g, 30% | NC1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1)NC)N1CCCC1 | C15H20N6O2S
